US07157487B2
Ethyl (5-chloro-2-fluoro-4-(3-indazolylcarbonylamino)phenyl)acetate (531 mg, 1.41 mmol) was dissolved in methanol (50 ml). To the resulting solution was added 0.25N NaOH (12 ml, 3 mmol). The resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was poured in 1N HCl (100 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure for 15 hours to give (5-chloro-2-fluoro-4-(3-indazolylcarbonylamino)phenyl)acetic acid (480 mg, 98%) as a colorless crystalline powder.

reactant | Ethyl (5-chloro-2-fluoro-4-(3-indazolylcarbonylamino)phenyl)acetate | 1.41 mmol, 531 mg | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC(=O)C1=NNC2=CC=CC=C12 | C18H15ClFN3O3
reactant | NaOH | 3 mmol, 0.25N, 12 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | HCl | 1N, 100 ml | Cl | ClH
product | (5-chloro-2-fluoro-4-(3-indazolylcarbonylamino)phenyl)acetic acid | 480 mg, 98% | ClC=1C(=CC(=C(C1)CC(=O)O)F)NC(=O)C1=NNC2=CC=CC=C12 | C16H11ClFN3O3
